US08114887B2
Step 3: 8-(3-Bromobenzyl)-4-(cyclohexylamino)-1-(3-fluorophenyl)-1,3,8-triazaspiro[4.5]dec-3-en-2-one (5-3)
To a suspension of 600 mg (1.44 mmol) 4-(cyclohexylammonio)-1-(3-fluorophenyl)-2-oxo-1,3-diaza-8-azoniaspiro[4.5]dec-3-ene dihydrochloride, 376 μL (2.16 mmol) diisopropylethylamine, and 427 mg (2.01 mmol) triacetoxy sodium borohydride in 20 mL DCE was added dropwise a 4 mL DCE solution of 251 μL (2.16 mmol) 3-bromobenzaldehyde and the resulting heterogeneous mixture was stirred at rt overnight under a nitrogen atmosphere. The reaction mixture was treated with 50 mL CH2Cl2 and washed with 20 mL saturated NaHCO3 (aq), 20 mL brine, dried over Na2SO4, filtered, and concentrated in vacuo. Purification by automated flash chromatography (0-5% MeOH in CH2Cl2 over 25 m) afforded the product as a white solid. 1H NMR (CDCl3, 400 MHz): δ 7.75 (d, J=8.15 Hz, 1H), 7.45 (m, 2H), 7.36 (m, 1H), 7.22 (m, 1H), 7.15 (d, J=7.69 Hz, 1H), 7.02 (m, 3H), 3.97 (m, 1H), 3.50 (s, 2H), 2.76 (m, 2H), 2.43 (m, 2H), 2.09 (m, 4H), 1.95 (m, 2H), 1.75 (m, 2H), 1.68 (m, 1H), 1.41 (m, 2H), 1.23 (m, 3H). High resolution mass spec (FT/ICR): calc M+H=513.1660. found 513.1697

reactant | 4-(cyclohexylammonio)-1-(3-fluorophenyl)-2-oxo-1,3-diaza-8-azoniaspiro[4.5]dec-3-ene dihydrochloride | 1.44 mmol, 600 mg | Cl.Cl.C1(CCCCC1)[NH2+]C1=NC(N(C12CC[NH2+]CC2)C2=CC(=CC=C2)F)=O
reactant | diisopropylethylamine | 2.16 mmol, 376 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-bromobenzaldehyde | 2.16 mmol, 251 μL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | DCE | 4 mL | ClCCCl | C2H4Cl2
product | 8-(3-Bromobenzyl)-4-(cyclohexylamino)-1-(3-fluorophenyl)-1,3,8-triazaspiro[4.5]dec-3-en-2-one | BrC=1C=C(CN2CCC3(C(=NC(N3C3=CC(=CC=C3)F)=O)NC3CCCCC3)CC2)C=CC1 | C26H30BrFN4O
